US07713994B2
1-[2-(4-nitrophenyl)-ethyl]-pyrrolidine
Pyrrolidine (3.89 g, 54.8 mmol) is added to a mixture of 8.40 g (36.5 mmol) of 1-(2-bromoethyl)-4-nitrobenzene and 6.14 g (73.0 mmol) of NaHCO3 in 60 mL of CH3CN at 0° C. The mixture is stirred for 0.5 h at 0° C. and then at 25° C. overnight. The reaction is filtered, the insoluble material is washed with CH3CN and the filtrate and wash were combined. Darco is added, the solution is dried (MgSO4) and evaporated to a viscous red oil. Stirring this material with Et2O caused crystallization of the product. It is collected, washed with Et2O and dried in vacuo to give 7.60 g (95%) of a tan hygroscopic solid. 1H NMR (DMSO-d6) δ 8.22 (d, 2H, J=6.57 Hz), 7.62 (d, 2H, J=6.57 Hz), 3.47 (m, 2H), 3.25 (m, 2H), 3.10 (m, 4H), 1.94 (m, 4H); MS (ESI) m/z 221.2 (M+1).

reactant | Pyrrolidine | 54.8 mmol, 3.89 g | N1CCCC1 | C4H9N
reactant | 1-(2-bromoethyl)-4-nitrobenzene | 36.5 mmol, 8.40 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | NaHCO3 | 73.0 mmol, 6.14 g | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | 1-[2-(4-nitrophenyl)-ethyl]-pyrrolidine | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCCC1 | C12H16N2O2
